US07608639B2
3-{2-Methyl-4-[3-(2-phenoxy-phenoxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 2-phenoxy-phenol as in Example 18 to afford 0.106 g (42%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C28H24O5 440, found 441 (M+1).

reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
reactant | 2-phenoxy-phenol | O(C1=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O2
product | 3-{2-Methyl-4-[3-(2-phenoxy-phenoxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC=C1)OC1=C(C=CC=C1)OC1=CC=CC=C1)CCC(=O)O | C28H24O5
